US07504399B2
Triethyl amine (1 ml) was added into a solution of 1-(1H-indol-3-yl)-2-(piperazin-1-yl)ethane-1,2-dione (150 mg) and 2-(chloro(phenyl)methylene)malononitrile (110 mg) in EtOH (20 ml). After 16 hours at 115° C., the reaction mixture was cooled down. Then the solvents were removed to offer a residue which was purified using Shimadzu automated preparative HPLC System to afford 2-((4-(2-(1H-indol-3-yl)-2-oxoacetyl)piperazin-1-yl)(phenyl)methylene)malononitrile.

reactant | Triethyl amine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(1H-indol-3-yl)-2-(piperazin-1-yl)ethane-1,2-dione | 150 mg | N1C=C(C2=CC=CC=C12)C(C(=O)N1CCNCC1)=O | C14H15N3O2
reactant | 2-(chloro(phenyl)methylene)malononitrile | 110 mg | ClC(=C(C#N)C#N)C1=CC=CC=C1 | C10H5ClN2
solvent | EtOH | 20 ml | CCO | C2H6O
product | 2-((4-(2-(1H-indol-3-yl)-2-oxoacetyl)piperazin-1-yl)(phenyl)methylene)malononitrile | N1C=C(C2=CC=CC=C12)C(C(=O)N1CCN(CC1)C(=C(C#N)C#N)C1=CC=CC=C1)=O | C24H19N5O2
